US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 8-cyanochroman-4-carboxylic acid (0.7 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.84 g) as starting materials, 8-cyano-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide (1.2 g) was obtained.

reactant | 8-cyanochroman-4-carboxylic acid | 0.7 g | C(#N)C=1C=CC=C2C(CCOC12)C(=O)O | C11H9NO3
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.84 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | 8-cyano-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide | 1.2 g | C(#N)C=1C=CC=C2C(CCOC12)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC | C26H28N4O2
